US07544672B2
Step 3. 4-Chloro-5-(3-diisobutylamino-prop-1-ynyl)-7-(4-methoxy-3,5-dimethyl-pyridin-2-ylmethyl)-7H-pyrrolo[2,3-d]pyrimidin-2-ylamine
The title compound was prepared by cleaving the pivaloyl protecting group of N-[4-chloro-5-(3-diisobutylamino-prop-1-ynyl)-7-(4-methoxy-3,5-dimethyl-pyridin-2-ylmethyl)-7H-pyrrolo[2,3-d]pyrimidin-2-yl]-2,2-dimethyl-propionamide with ZnCl2 according to the General Procedure B. tR: 5.23 min. 1H-NMR (CDCl3) δ 8.23 (s, 1H), 7.08 (s, 1H), 5.31 (s, 2H), 4.99 (s, 1H), 3.76 (s, 3H), 3.56 (s, 2H), 2.29 (s, 3H), 2.27 (d, 4H), 2.21 (s, 3H), 1.74 (m, 2H), 0.90 (d, 12H).

reactant | N-[4-chloro-5-(3-diisobutylamino-prop-1-ynyl)-7-(4-methoxy-3,5-dimethyl-pyridin-2-ylmethyl)-7H-pyrrolo[2,3-d]pyrimidin-2-yl]-2,2-dimethyl-propionamide | ClC=1C2=C(N=C(N1)NC(C(C)(C)C)=O)N(C=C2C#CCN(CC(C)C)CC(C)C)CC2=NC=C(C(=C2C)OC)C | C31H43ClN6O2
catalyst | ZnCl2 | [Cl-].[Cl-].[Zn+2]
product | 4-Chloro-5-(3-diisobutylamino-prop-1-ynyl)-7-(4-methoxy-3,5-dimethyl-pyridin-2-ylmethyl)-7H-pyrrolo[2,3-d]pyrimidin-2-ylamine | ClC=1C2=C(N=C(N1)N)N(C=C2C#CCN(CC(C)C)CC(C)C)CC2=NC=C(C(=C2C)OC)C | C26H35ClN6O
